US05554607
1-Ethyl-3-(2-methylsulfanylphenyl)-2-thioxo-imidazolidin-4-one
A mixture of N-ethyl glycine (9.23 g), 2-(methylthio)-phenyl-isothiocyanate (9.1 g), triethylamine (10.1 g) and methylene chloride (150 mL) was heated at reflux for 3 hours. The mixture was evaporated to dryness. The residue was recrystallized from ethanol to give the title compound (6.5 g) as a creamy solid, m.p. 128°-131° C. Anal. Calcd. for. C12H14N2S2O: C, 52.11; H, 5.30; N, 10.52. Found: C, 52.28; H, 5.26; N, 10.54. Mass spectrum (EI, M.+) m/z 266.

reactant | N-ethyl glycine | 9.23 g | C(C)NCC(=O)O | C4H9NO2
reactant | 2-(methylthio)-phenyl-isothiocyanate | 9.1 g | CSC1=C(C=CC=C1)N=C=S | C8H7NS2
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 1-Ethyl-3-(2-methylsulfanylphenyl)-2-thioxo-imidazolidin-4-one | 6.5 g | C(C)N1C(N(C(C1)=O)C1=C(C=CC=C1)SC)=S | C12H14N2OS2
